data/core_train_final.csv
"C[C:10]1CCCC=C1.[Br:20][Br:21]>>C[C:10]1(CCCC=C1)[Br:20].[Br:21] 21,20-10,20;21,20-21;10-10,20",Room Temperature,Propagation,abstraction
"[H:1][Br:2].[CH2:7]1[CH2:8][CH2:9][C:5]([CH2:6]1)[CH2:4][Br:3]>>[H:1][C:5]1([CH2:6][CH2:7][CH2:8][CH2:9]1)[CH2:4][Br:3].[Br:2] 2,1-2;2,1-1,5;5-5,1",Room Temperature,Propagation,abstraction
"C[C:10](CC(C)(C)OC)C#N.C(#N)[CH:21](C#N)[Br:20]>>CC(C)(C[C:10](C)(C#N)[Br:20])OC.[CH:21](C#N)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C)CC.[Cl:20][Cl:21].[He]>>[He].CCC(C)CC.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[CH2:7]1[CH2:8][CH:3]=[CH:4][CH:5][CH2:6]1.[Br:1][Br:2]>>[CH2:7]1[CH2:8][CH:3]=[CH:4][CH:5]([CH2:6]1)[Br:1].[Br:2] 5-1,5;1,2-1,5;1,2-2",Room Temperature,Propagation,abstraction
"[Cl:11][C:10](F)(F)F.[He]>>[He].[Cl:11].[C:10](F)(F)F 10,11-10;10,11-11",Light,Initiation,homolyze
"C[C:10](C[O:20][OH:21])C(CO)O>>C[C:10]1(C[O:20]1)C(CO)O.[OH:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:20][C:21](C)(C)C1=CC=CC=C1.CC(C)(C1=CC=CC=C1)O[O:10]>>[H:20][O:10]OC(C)(C)C1=CC=CC=C1.C[C:21](C)C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C1=CC=C(C=C1)[CH:10]Cl.[Cl:20]>>C1=CC=C(C=C1)[CH:10](Cl)[Cl:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1CCC=C[CH:20]1.[Br:10][Br:11]>>CC1CCC=C[CH:20]1[Br:10].[Br:11] 11,10-11;11,10-10,20;20-10,20",Room Temperature,Propagation,abstraction
"[H:6][C:5]1([CH2:7][CH2:8][CH:2]([CH:3]=[CH:4]1)[CH3:1])[H:9].[Br:10]>>[H:6][C:5]1[CH2:7][CH2:8][CH:2]([CH:3]=[CH:4]1)[CH3:1].[H:9][Br:10] 10-10,9;9,5-10,9;5,9-5",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]C.[Cl:10].ClCl>>[H:20][Cl:10].C[CH2:21].ClCl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][C:3]([CH2:2][Br:1])[CH2:5][Br:6].[H:7][Br:8]>>[H:4][C:3]([H:7])([CH2:2][Br:1])[CH2:5][Br:6].[Br:8] 8,7-3,7;3-3,7;8,7-8",Room Temperature,Propagation,abstraction
"C1C[CH:10]OC1.[O:20][O]>>C1C[CH:10](OC1)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)C(C)[CH2:10].C[CH:21]=[CH2:20]>>CCC(C)C(C)[CH2:10][CH2:20][CH:21]C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC[CH2:10].[CH2:20]=[CH:21]F>>CC[CH2:10][CH2:20][CH:21]F 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:8][Cl:7].[CH3:5][CH2:4][C:3]([CH3:6])[CH:2]=[CH2:1].[Cl:9]>>[H:8][Cl:7].[CH3:5][CH2:4][C:3]([CH3:6])([CH:2]=[CH2:1])[Cl:9] 9-3,9;3-3,9",Room Temperature,Termination,recombine
"CC1=CC=C(C=C1)C.[Br:20][Br:21].[He]>>[He].CC1=CC=C(C=C1)C.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H:20][C:21]12CCCCC1(CCCC2)C.[Br:10]>>[H:20][Br:10].CC12CCCC[C:21]1CCCC2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:8][C:7]1=[C:9]([C:11](=[CH:14][C:5](=[CH:6]1)[CH:4]=[CH:3][C:2](=[O:15])[O-:1])[O:12][CH3:13])[O:10]>>[H:8][C:7]1[CH:6]=[C:5]([CH:14]=[C:11]([C:9]1=[O:10])[O:12][CH3:13])[CH:4]=[CH:3][C:2](=[O:15])[O-:1] 10-9,10; 7,9-9,10; 7,9-7",Room Temperature,Propagation,resonance
"[H:1][C:2]([H:4])[Cl:3].[N:7]#[N:8].[O:5][O:6]>>[H:1][C:2]([H:4])([O:5][O:6])[Cl:3].[N:7]#[N:8] 2-2,5; 5-2,5",Room Temperature,Termination,recombine
"[H:4][O:3].[H:1][I:2]>>[H:4][O:3][H:1].[I:2] 3-3,1; 2,1-3,1; 2,1-2",Room Temperature,Propagation,abstraction
"[H:20][C:21](C)(CC)Br.[Cl:10]>>[H:20][Cl:10].CC[C:21](C)Br 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:6][C:5]([H:7])([H:8])[C:2]([CH3:1])([CH3:3])[CH3:4].[Cl:9]>>[H:8][C:5]([H:6])[C:2]([CH3:3])([CH3:4])[CH3:1].[H:7][Cl:9] 9-7,9;5,7-7,9;5,7-5",Room Temperature,Propagation,abstraction
"[H:21][C:20]([H:22])([CH2:19][CH2:18][CH2:17][CH2:16][CH:15]=[CH2:14])[Br:23].[CH3:1][CH2:2][CH2:3][CH2:4][Sn:5]([CH2:6][CH2:7][CH2:8][CH3:9])[CH2:10][CH2:11][CH2:12][CH3:13]>>[H:21][C:20]([H:22])[CH2:19][CH2:18][CH2:17][CH2:16][CH:15]=[CH2:14].[CH3:1][CH2:2][CH2:3][CH2:4][Sn:5]([CH2:6][CH2:7][CH2:8][CH3:9])([CH2:10][CH2:11][CH2:12][CH3:13])[Br:23] 20,23-5,23;23,20-20;5-5,23",Room Temperature,Propagation,abstraction
"[CH3:9][CH2:10][CH2:11][CH2:12][Sn:13]([CH2:14][CH2:15][CH2:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH3:21].[CH:6]1=[CH:5][CH:4]=[C:3]([CH:8]=[CH:7]1)[CH2:2][I:1]>>[CH3:9][CH2:10][CH2:11][CH2:12][Sn:13]([CH2:14][CH2:15][CH2:16][CH3:17])([CH2:18][CH2:19][CH2:20][CH3:21])[I:1].[CH2:2][C:3]1=[CH:4][CH:5]=[CH:6][CH:7]=[CH:8]1 13-13,1; 1,2-13,1;1,2-2",Room Temperature,Propagation,abstraction
"C[CH:20]C1=CC=CC=C1.[Cl:10][Cl:11]>>C[CH:20](C1=CC=CC=C1)[Cl:10].[Cl:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[CH2:21][CH:20]1[CH2:10]CCC1.[H:30][Sn:31](CCCC)(CCCC)CCCC>>[H:30][CH2:21][CH:20]1[CH2:10]CCC1.[Sn:31](CCCC)(CCCC)CCCC 21-21,30;30,31-21,30;30,31-31",Room Temperature,Propagation,abstraction
"[H:3][C:2]([CH3:1])[CH3:4].[Br:5][Br:6]>>[H:3][C:2]([CH3:1])([CH3:4])[Br:5].[Br:6] 5,6-2,5;2-2,5;5,6-6",Room Temperature,Propagation,abstraction
